US04535161
400 mg of N-methylpiperazine and 6 ml of dimethyl sulfoxide were added to 400 mg of 8,9-difluoro-5-methylene-6,7-dihydro-1-oxo-1H,5H-benzo(ij)quinolizine-2-carboxylic acid and the resulting mixture was heated for 2.5 hours at 100°-110° C. (bath temperature). The solvent was distilled off in vacuo and water was added to the residue. The mixture was extracted with chloroform and the extract was dried. The solvent was distilled off and the residue was purified by silica gel column chromatography and then recrystallized from ethanol to give 85 mg of 8-(4-methyl-1-piperazinyl)-9-fluoro-5-methylene-6,7-dihydro-1-oxo-1H,5H-benzo(ij)quinolizine-2-carboxylic acid as microcrystals with 282°-285° C. (decomposition).

reactant | N-methylpiperazine | 400 mg | CN1CCNCC1 | C5H12N2
reactant | 8,9-difluoro-5-methylene-6,7-dihydro-1-oxo-1H,5H-benzo(ij)quinolizine-2-carboxylic acid | 400 mg | FC1=C(C=C2C(C(=CN3C(CCC1=C23)=C)C(=O)O)=O)F | C14H9F2NO3
solvent | dimethyl sulfoxide | 6 ml | CS(=O)C | C2H6OS
product | 8-(4-methyl-1-piperazinyl)-9-fluoro-5-methylene-6,7-dihydro-1-oxo-1H,5H-benzo(ij)quinolizine-2-carboxylic acid | 85 mg | CN1CCN(CC1)C1=C(C=C2C(C(=CN3C(CCC1=C23)=C)C(=O)O)=O)F | C19H20FN3O3
